US07517532B2
To a cold (0° C.) solution of 2-[(benzyloxy)methyl]-1-tritylaziridine (1.28 g, 3.16 mmol) in dichloromethane (13 mL), trifluoroacetic acid (1 mL) and triethylsilane (2.0 mL) was added and stirred at the temperature for 1 h. The resultant mixture was concentrated under vacuum, and the residue was partitioned between ether and brine. The organic extract was dried with anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with a mixture of 50-100% THF in hexane. Collection and concentration of appropriate fractions provided 2-[(benzyloxy)methyl]aziridine.

reactant | 2-[(benzyloxy)methyl]-1-tritylaziridine | 3.16 mmol, 1.28 g | C(C1=CC=CC=C1)OCC1N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H27NO
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | triethylsilane | 2.0 mL | C(C)[SiH](CC)CC | C6H16Si
product | 2-[(benzyloxy)methyl]aziridine | C(C1=CC=CC=C1)OCC1NC1 | C10H13NO
